US09216182B2
c) 1-(5-((tert-butyldimethylsilyloxy)methyl)pyridin-2-yl)piperidin-4-ol
A mixture of 5-((tert-butyldimethylsilyloxy)methyl)-2-chloropyridine (650 mg, 2.5 mmol) in toluene (20 mL) was degassed with argon for 5 min, followed by adding piperidin-4-ol (303 mg, 3 mmol), t-BuOK (426 mg, 3.8 mmol), Pd2(dba)3 (23 mg, 0.0025 mmol) and BINAP (31 mg, 0.05 mmol). The resulting mixture was stirred at 90□ overnight under argon atmosphere. After cooling to rt, solid was removed by filtration and the filtrate was concentrated to dryness. The residue was dissolved in EtOAc (50 mL) and the mixture was washed with brine (50 mL), dried and concentrated to yield the desired product as dark oil (620 mg, 76%). [LCMS: RtA=1.59 min, m/z 323.2 [M+H]+].

reactant | 5-((tert-butyldimethylsilyloxy)methyl)-2-chloropyridine | 2.5 mmol, 650 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=CC(=NC1)Cl | C12H20ClNOSi
reactant | piperidin-4-ol | 3 mmol, 303 mg | N1CCC(CC1)O | C5H11NO
reactant | t-BuOK | 3.8 mmol, 426 mg | CC(C)(C)[O-].[K+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.0025 mmol, 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 0.05 mmol, 31 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 1-(5-((tert-butyldimethylsilyloxy)methyl)pyridin-2-yl)piperidin-4-ol | 620 mg, 76% | [Si](C)(C)(C(C)(C)C)OCC=1C=CC(=NC1)N1CCC(CC1)O | C17H30N2O2Si
